US08748624B2
STEP E: 3-(5-(2-(((2,4′-dichloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (5.6 mL, 16.7 mmol) was added to a THF (20 mL) and MeOH (10 mL) solution of ethyl 3-(5-(2-(((2,4′-dichloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate (3.5 g, 5.6 mmol) and the resulting homogeneous mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2 M HCl. The resulting precipitate was filtered off, dried in vacuo, and purified via HPLC to yield the title compound.

reactant | NaOH | 16.7 mmol, 5.6 mL | [OH-].[Na+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(2-(((2,4′-dichloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 5.6 mmol, 3.5 g | ClC1=C(C=CC(=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C1=C(C=C(C=C1)Cl)C | C32H28Cl2F3N3O3
solvent | MeOH | 10 mL | CO | CH4O
product | 3-(5-(2-(((2,4′-dichloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid | ClC1=C(C=CC(=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O)C1=C(C=C(C=C1)Cl)C | C30H24Cl2F3N3O3
